US07531532B2
4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid {4-[3-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}amide
4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid [4-(4-amino-3-fluorophenoxy)pyridin-2-yl]amide was dissolved in ethanol (3.0 ml), and then (S)-(+)-10-camphorsulfonic acid (75.5 mg) was added thereto, followed by stirring at room temperature for 15 min. A solution of phenylacetyl isothiocyanate (45.5 mg) in toluene (3.0 ml) was added thereto, followed by stirring at room temperature for 2.5 hrs. The reaction mixture was partitioned between ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (30 ml). The organic layer was washed with brine (30 ml×3), and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; heptane:ethyl acetate=1:2, ethyl acetate, then ethyl acetate). Fractions containing the target compound were concentrated to give a solid, to which diethyl ether (3 ml) and hexane (3 ml) in this order were then added to suspend. The solid was filtered off, washed with diethyl ether (1 ml), and dried under aeration to provide the titled compound (17.8 mg, 18%) as colorless powder.

reactant | 4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid [4-(4-amino-3-fluorophenoxy)pyridin-2-yl]amide | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCCC2)C=C1)F | C21H26FN5O2
reactant | (S)-(+)-10-camphorsulfonic acid | 75.5 mg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | phenylacetyl isothiocyanate | 45.5 mg | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
reactant | diethyl ether | 3 ml | C(C)OCC | C4H10O
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
solvent | toluene | 3.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 3 ml | CCCCCC | C6H14
product | 4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid {4-[3-fluoro-4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}amide | 17.8 mg, 18% | FC=1C=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCCC2)C=CC1NC(=S)NC(CC1=CC=CC=C1)=O | C30H33FN6O3S
